US07045544B2
Ethyl 5-nitro-1-phenyl-1H-indole-2-carboxylate
5.5 g (22.31 mmol) of ethyl 5-nitro-1H-indole-2-carboxylate, 6.16 g (44.62 mmol) of anhydrous potassium carbonate, 77.53 g (52 ml, 493.8 mmol) of bromobenzene and 1.6 g (11.15 mmol) of copper bromide are stirred under reflux (about 156° C.) for 5 days. The reaction mixture is then filtered, and the residue on the frit is washed with toluene. The collected filtrates are concentrated, dried under high vacuum and purified by flash chromatography on silica gel.

reactant | ethyl 5-nitro-1H-indole-2-carboxylate | 22.31 mmol, 5.5 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | potassium carbonate | 44.62 mmol, 6.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromobenzene | 493.8 mmol, 52 ml, 77.53 g | BrC1=CC=CC=C1 | C6H5Br
catalyst | copper bromide | 11.15 mmol, 1.6 g | [Cu](Br)Br
product | Ethyl 5-nitro-1-phenyl-1H-indole-2-carboxylate | [N+](=O)([O-])C=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)OCC | C17H14N2O4
